US07265232B2
To a reaction vessel were added (S)-epichlorohydrin (99% ee, 2.64 g, 29 mmol), toluene (6 ml) and water (6 ml), and the mixture was cooled with ice. After adding phenol (1.78 g, 19 mmol), thereto 24% aqueous NaOH solution (4.75 g, 29 mmol) was dropped under stirring over a ten minute period. The mixture was stirred for 30 minutes under ice-cooling and then for 50 hours at room temperature. The aqueous layer was removed and the organic layer was neutralized with 5% HCl and washed with water twice. The solvent was removed to give objective crude (R)-glycidylphenyl ether (1.96 g, yield 69%, optical purity 98% ee) as an oil.

reactant | (S)-epichlorohydrin | 29 mmol, 2.64 g | C(Cl)[C@@H]1CO1 | C3H5ClO
reactant | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
reactant | phenol | 19 mmol, 1.78 g | C1(=CC=CC=C1)O | C6H6O
reactant | NaOH | 29 mmol, 4.75 g | [OH-].[Na+]
solvent | water | 6 ml | O | H2O
product | (R)-glycidylphenyl ether | 1.96 g, yield 69% | C([C@H]1CO1)OC1=CC=CC=C1 | C9H10O2
